US07612114B2
5-{4-Hydroxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-ol
To a solution of {5-(tert-butyldimethylsilyloxy)-2-[1-(tert-butyldimethylsilyloxy)indan-5-yl]phenyl}[4-(2-piperidin-1-ylethoxy)phenyl]amine (590 mg) in tetrahydrofuran (8 ml) was added tetrabutylammonium fluoride (1.0 M solution in tetrahydrofuran) (3 ml), and the solution was stirred for 3 hours at room temperature. A saturated aqueous solution of ammonium chloride was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to provide the title compound (308 mg).

reactant | {5-(tert-butyldimethylsilyloxy)-2-[1-(tert-butyldimethylsilyloxy)indan-5-yl]phenyl}[4-(2-piperidin-1-ylethoxy)phenyl]amine | 590 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)NC1=CC=C(C=C1)OCCN1CCCCC1)C=1C=C2CCC(C2=CC1)O[Si](C)(C)C(C)(C)C | C40H60N2O3Si2
reactant | tetrabutylammonium fluoride | 1.0 M, 3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 5-{4-Hydroxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-ol | 308 mg | OC1=CC(=C(C=C1)C=1C=C2CCC(C2=CC1)O)NC1=CC=C(C=C1)OCCN1CCCCC1 | C28H32N2O3
